US05610141
b) (S,S)-2,7-Diamino-(Z)-oct-4-ene-1,8-dioic acid dimethylester
1,4-Bis((2R,5S)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-pyrazinyl)-(Z)-but-2-ene (0.58 g, 1.23 mmol) was dissolved in dioxane (8 ml), and 0.25M HCl (8 ml, 2.5 mmol) was added and stirred overnight at ambient temperature. TLC(MeCN:MeOH:H2O/4:1:1). The solution was extracted with diethyl ether, and the aqueous phase was evaporated. The residue was dissolved in a small amount of water, and aqueous ammonia solution was added until a pH of 9 was reached. The aqueous phase was extracted twice with diethyl ether, and the organic phase was dried over MgSO4 and evaporated.

reactant | 1,4-Bis((2R,5S)-2,5-dihydro-3,6-dimethoxy-2-isopropyl-5-pyrazinyl)-(Z)-but-2-ene | 1.23 mmol, 0.58 g | COC=1[C@H](N=C([C@@H](N1)C\C=C/C[C@@H]1N=C([C@H](N=C1OC)C(C)C)OC)OC)C(C)C | C22H36N4O4
reactant | HCl | 2.5 mmol, 0.25M, 8 ml | Cl | ClH
reactant | MeCN | CC#N | C2H3N
reactant | MeOH | CO | CH4O
reactant | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
product | (S,S)-2,7-Diamino-(Z)-oct-4-ene-1,8-dioic acid dimethylester | COC([C@H](C\C=C/C[C@@H](C(=O)OC)N)N)=O | C10H18N2O4
